US08044159B2
There were supplied to a 50 mL-round bottom flask 7.69 g of MOLECULAR SIEVES 3A, 35 mL of toluene, 49.7 mg of the above-produced Pd(OC6H5)3, 5.04 g of 2,2-dimethyl-1,3-dioxane-4,6-dione, and 4.9 ml of allyl alcohol, and the resultant mixture was stirred for 2 hours at 80° C. in an atmosphere of a nitrogen gas. The reaction mixture was filtered, and toluene contained in the filtrate was distilled away. The resultant residue was purified according to a column chromatography having a stationary phase of silica gel and a mobile phase of a mixed solvent consisting of 8 parts by weight of hexane and 1 part by weight of ethyl acetate, thereby obtaining 6.22 g of clear and oily isopropylidene diallylmalonate (monomer).

reactant | 2,2-dimethyl-1,3-dioxane-4,6-dione | 5.04 g | CC1(OC(CC(O1)=O)=O)C | C6H8O4
reactant | allyl alcohol | 4.9 ml | C(C=C)O | C3H6O
reactant | toluene | 35 mL | C1(=CC=CC=C1)C | C7H8
product | isopropylidene diallylmalonate | C(C=C)C1(C(=O)OC(C)(C)OC1=O)CC=C | C12H16O4
